US03947585
The starting material is prepared as follows: To the solution of 2.6 g of 8-chloro-1-phenyl-3,4-dihydro-2-benzazepin-5-one in 4 ml of diethyl ether, 0.5 g of sodium hydride in 10 ml of diethyl ether are added and the mixture stirred for 1/2 hour. Thereupon 1.2 ml of ethyl formate and 0.1 ml of ethanol are added and the mixture refluxed for 24 hours. It is cooled in an ice bath, 30 ml of water are added, the aqueous layer separated, acidified with 2N hydrochloric acid and the precipitate formed filtered off, to yield the 8-chloro-4-hydroxymethylidene-1-phenyl-3,4-dihydro-2-benzazepin-5-one hydrochloride melting at 185° with decomposition.

reactant | 8-chloro-1-phenyl-3,4-dihydro-2-benzazepin-5-one | 2.6 g | ClC1=CC2=C(C(CCN=C2C2=CC=CC=C2)=O)C=C1 | C16H12ClNO
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | ethyl formate | 1.2 ml | C(=O)OCC | C3H6O2
reactant | ethanol | 0.1 ml | C(C)O | C2H6O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | water | 30 ml | O | H2O
product | 8-chloro-4-hydroxymethylidene-1-phenyl-3,4-dihydro-2-benzazepin-5-one hydrochloride | Cl.ClC1=CC2=C(C(C(CN=C2C2=CC=CC=C2)=CO)=O)C=C1 | InChI=1S/C17H12ClNO2.ClH/c18-13-6-7-14-15(8-13)16(11-4-2-1-3-5-11)19-9-12(10-20)17(14)21;/h1-8,10,20H,9H2;1H
